* Isolated hard 2.5-V boundary fixture; not a production model.
.options numdgt=17
.param EDGE=351.508835331273m TSTOP=351.508955331273m
Vhold pwm_hold 0 PWL(0 2.4 {EDGE-5n} 2.4 {EDGE+5n} 2.6 {TSTOP} 2.6)
* Controller latch and blank equations copied from stalled-351ms surrogate.
Bgate pwm 0 V=(V(pwm_hold)>2.5) ? 15 : 0
Cblank blank 0 1p IC=0
Bblank 0 blank I=(V(pwm_hold)>2.5) ? 1u : -V(blank)/1
* Actual gate R/C path from protection.inc plus power-stage gate capacitances.
Rpwm pwm pwm_input 1k
Rpwmpd pwm_input 0 10k
Bdriver_req drv_req 0 V=(V(pwm_input)>2.2) ? 15 : 0
Rdriver_delay drv_req drv 1
Cdriver_delay drv 0 18.75n
Rdriver drv gate_cmd 1
Rgate gate_cmd gate 10
Rgs gate 0 10k
Cgd gate sw 112p
Cgs gate 0 12n
Csw sw 0 344p
.save time v(pwm_hold) v(pwm) v(blank) v(pwm_input) v(drv_req) v(drv) v(gate)
.tran 1u {TSTOP} 0 1u
.control
run
set numdgt=17
set wr_singlescale
wrdata boundary.raw time v(pwm_hold) v(pwm) v(blank) v(pwm_input) v(drv_req) v(drv) v(gate)
quit
.endc
.end
